US09169212B2
A mixture of 4-bromo-3-chlorosulfonyl-benzoic acid (6.90 g, 23.04 mmol, 1.00 Eq) in SOCl2 (27.41 g, 230.40 mmol, 10.00 Eq) was stirred at 80° C. for 3 hr. Then the solvent was evaporated. The residue was diluted in TOLUENE (50 mL), and MeOH (959.66 mg, 29.95 mmol, 1.30 Eq) was added, the formed mixture was stirred at 110° C. for 2 hr. Solid was formed, and the solvent was evaporated, the solid was washed with PE, and filtered to afford product methyl 4-bromo-3-chlorosulfonyl-benzoate (7.22 g, 23.03 mmol, 99.94% yield) as white solid.

reactant | 4-bromo-3-chlorosulfonyl-benzoic acid | 23.04 mmol, 6.90 g, 1.00 Eq | BrC1=C(C=C(C(=O)O)C=C1)S(=O)(=O)Cl | C7H4BrClO4S
reactant | SOCl2 | 230.40 mmol, 27.41 g, 10.00 Eq | O=S(Cl)Cl | Cl2OS
reactant | MeOH | 29.95 mmol, 959.66 mg, 1.30 Eq | CO | CH4O
product | methyl 4-bromo-3-chlorosulfonyl-benzoate | 23.03 mmol, 7.22 g, 99.94% yield | BrC1=C(C=C(C(=O)OC)C=C1)S(=O)(=O)Cl | C8H6BrClO4S
